US06953857B2
(ii) 3-[1-(4-Chloro-phenyl)-cyclobutylmethoxy]-4-methoxy-benzoic acid
To a solution of 300 mg 3-Hydroxy-4-methoxy-benzoic acid methyl ester, 388 mg [1-(4-Chloro-phenyl)-cyclobutyl]-methanol 1645 mg polymerbound triphenyl phosphine (Fluka, 3 mmol triphenyl phosphine/g resin) and 762 μl DEAD were introduced and the mixture was shaken over night at RT. After filtration, evaporation of the solvent the residue was taken up in 5 ml MeOH/H2O 3:1 and 20 mg LiOH monohydrate was added. After heating the mixture at 60° C. for 2 h the mixture was acidified with half concentrated HCl and filtered through a chem elut® cartridge by elution with ethyl acetate. After concentration under reduced pressure the crude product was subjected to the following amide coupling without further purification.

reactant | 3-Hydroxy-4-methoxy-benzoic acid methyl ester | 300 mg | COC(C1=CC(=C(C=C1)OC)O)=O | C9H10O4
reactant | [1-(4-Chloro-phenyl)-cyclobutyl]-methanol | 3 mmol, 388 mg | ClC1=CC=C(C=C1)C1(CCC1)CO | C11H13ClO
reactant | DEAD | 762 μl | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
product | 3-[1-(4-Chloro-phenyl)-cyclobutylmethoxy]-4-methoxy-benzoic acid | ClC1=CC=C(C=C1)C1(CCC1)COC=1C=C(C(=O)O)C=CC1OC | C19H19ClO4
